US03931197
A mixture of 14 g (0.0465 mole) of α-(p-chlorophenyl)-α-phenyl-4-piperidinemethanol, 12 g (0.06 mole) of 4-chloro-4'-fluorobutyrophenone, 16.8 g (0.2 mole) of sodium bicarbonate and a small amount of potassium iodide in 500 ml of toluene is refluxed 60 hours then filtered. The filtrate is concentrated to an oil which is dissoved in ether and treated with ethereal HCl. The resulting precipitate is collected and recrystallized from methanol-ethyl acetate and then methylene chloride to give 4'-fluoro-4-[4-[α-hydroxy-α-(p-chlorophenyl)benzyl]piperidino]butyrophenone hydrochloride, M.P. 154°C (dec.).

reactant | α-(p-chlorophenyl)-α-phenyl-4-piperidinemethanol | 0.0465 mole, 14 g | ClC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H20ClNO
reactant | 4-chloro-4'-fluorobutyrophenone | 0.06 mole, 12 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | sodium bicarbonate | 0.2 mole, 16.8 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-fluoro-4-[4-[α-hydroxy-α-(p-chlorophenyl)benzyl]piperidino]butyrophenone hydrochloride | Cl.FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)Cl)O)=O | InChI=1S/C28H29ClFNO2.ClH/c29-25-12-10-23(11-13-25)28(33,22-5-2-1-3-6-22)24-16-19-31(20-17-24)18-4-7-27(32)21-8-14-26(30)15-9-21;/h1-3,5-6,8-15,24,33H,4,7,16-20H2;1H
